US08859580B2
7-Benzyl-6,7,9,10-tetrahydro-5H-6,10-methano-pyrido[3,2-d]azocin-8-one (racemic mixture of diastereomer shown)
A flask charged with a stir bar, 2-benzyl-2-aza-bicyclo[3.3.1]nonane-3,6-dione (for preparation see J. Chem. Soc., Perkin Trans. 1, 1999, 1157-1162; 0.80 g), NaAuCl4.2 H2O (30 mg), propargylamine (0.45 mL), and ethanol (5 mL) is heated at 100° C. with microwave irradiation for 10 min. After cooling to room temperature, the mixture is filtered and the filtrate is concentrated. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate/methanol 6:4:1).

reactant | 2-benzyl-2-aza-bicyclo[3.3.1]nonane-3,6-dione | 0.80 g | C(C1=CC=CC=C1)N1C2CCC(C(CC1=O)C2)=O | C15H17NO2
reactant | H2O | 30 mg | O | H2O
reactant | propargylamine | 0.45 mL | C(C#C)N | C3H5N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 7-Benzyl-6,7,9,10-tetrahydro-5H-6,10-methano-pyrido[3,2-d]azocin-8-one | C(C1=CC=CC=C1)N1C2CC3=C(C(CC1=O)C2)N=CC=C3 | C18H18N2O
